US07714000B2
(b) 1-(4-methoxycarbonyl-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid
10 g (60.5 mmol) methyl 4-amino-2-methyl-benzoate and 7.9 g (60.5 mmol) itaconic acid are suspended in 50 ml xylene and refluxed for seven hours. The reaction mixture is cooled to ambient temperature and evaporated to dryness. The residue is suspended in methanol. The undissolved solid is filtered off and dried until the weight remains constant.

reactant | methyl 4-amino-2-methyl-benzoate | 60.5 mmol, 10 g | NC1=CC(=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | itaconic acid | 60.5 mmol, 7.9 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-methoxycarbonyl-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid | COC(=O)C1=C(C=C(C=C1)N1CC(CC1=O)C(=O)O)C | C14H15NO5
